US05563136
Ethyl (Z)-3-nitro-alpha-hydroxyiminophenylacetate can be obtained in the following manner: a solution of 62 g of hydroxylamine hydrochloride in 200 cm3 of water is added to a solution of 10 g of ethyl 3-nitrophenyl-glyoxylate in 250 cm3 of pyridine and the mixture is brought for 2 hours to a temperature near to 100° C. The reaction mixture is concentrated under reduced pressure (1.2 kPa). The residue is diluted with 250 cm3 of water and extracted with 250 cm3 of ethyl acetate. The organic phase is washed with a 1N aqeuous solution of hydrochloric acid, dried over magnesium sulphate, filtered and evaporated to dryness to give a white solid. This solid is purified by chromatography on a column of diameter 4 cm containing 500 cm3 of silica, eluting with a cyclohexane/ethyl acetate mixture and collecting fractions of 100 cm3. The fractions between 1 and 1.2 liters are combined and concentrated to dryness to give 1.8 g of ethyl (E)-3-nitro-alpha-hydroxyiminophenylacetate in the form of a colorless oil; the fractions between 1.4 and 1.6 liters are combined and concentrated to dryness to give 2.5 g of ethyl (Z)-3-nitro-alpha-hydroxyiminophenylacetate in the form of a solid which is used as such in the subsequent syntheses.

reactant | hydroxylamine hydrochloride | 62 g | Cl.NO
reactant | ethyl 3-nitrophenyl-glyoxylate | 10 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C(=O)OCC)=O | C10H9NO5
solvent | water | 200 cm3 | O | H2O
solvent | pyridine | 250 cm3 | N1=CC=CC=C1 | C5H5N
product | ethyl (E)-3-nitro-alpha-hydroxyiminophenylacetate | 1.8 g | [N+](=O)([O-])C=1C=C(C=CC1)\C(\C(=O)OCC)=N/O | C10H10N2O5
